US06596719B1
At 0° C. a solution of 14.2 g of diethyl 2-(p-tolyl)-malonate in 50 ml of methanol was slowly added to a solution of 9.4 g of sodium methylate in 300 ml of methanol. Upon completion of the addition the reaction mixture was allowed to warm up and 5.4 g of formamidine hydrochloride was added. The mixture was stirred at room temperature for 16 h. The solvent was removed under reduced pressure and the remaining residue was treated with 150 ml of 2 N hydrochloric acid. The suspension was stirred for 0.5 h. At 0-5° C., the pH was carefully adjusted to 4 using 10 N sodium hydroxide solution. The precipitate was collected, washed with cold water, isopropanol, and diethyl ether and dried under high vacuum at 65° C. to give 11.2 g of 4,6-dihydroxy-5-(p-tolyl)-pyrimidine (or a tautomer) as a white powder.

reactant | diethyl 2-(p-tolyl)-malonate | 14.2 g | C1(=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC)C | C14H18O4
reactant | sodium methylate | 9.4 g | C[O-].[Na+]
reactant | formamidine hydrochloride | 5.4 g | Cl.C(=N)N
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 4,6-dihydroxy-5-(p-tolyl)-pyrimidine | 11.2 g | OC1=NC=NC(=C1C1=CC=C(C=C1)C)O | C11H10N2O2
